US05073559
Example 2 2-(2-Cyclopropylmethoxyphenyl)purin-6-one
A stirred mixture of 4,5-diamino-2-(2-cyclopropylmethoxyphenyl)pyrimidin-6-one sulphate (1.48 g) and formamide (5 ml) was heated in an oil bath at 180° C. for 2 to 3 hours. The cooled mixture was filtered and the collected solid was washed with ethanol to give a crude product (1.07 g) which was recrystallised three times from ethanol to afford the title compound, 0.32 g, m.p. 259°-260° C.

reactant | 4,5-diamino-2-(2-cyclopropylmethoxyphenyl)pyrimidin-6-one sulphate | 1.48 g | S(=O)(=O)(O)O.NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCC1CC1
reactant | formamide | 5 ml | C(=O)N | CH3NO
product | 2-(2-Cyclopropylmethoxyphenyl)purin-6-one | C1(CC1)COC1=C(C=CC=C1)C1=NC(C2=NC=NC2=N1)=O | C15H12N4O2
